US07951794B2
A solution of 1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-propan-1-one (47 mg, 0.125 mmol) in ethanol (2 mL) and 3 N aq. NaOH (0.5 mL) is treated with (S)-3-chloro-propane-1,2-diol (90 μL) and the mixture is stirred at 60° C. for 20 h. Another portion of (S)-3-chloro-propane-1,2-diol (60 μL) is added and stirring is continued at 60° C. for 5 days. The reaction mixture is diluted with water and extracted with DCM. The solvent of the organic extract is evaporated and the crude product is purified on prep. TLC plates with heptane:EA 2:1 to give 3-[4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-propan-1-one (6 mg) as a colourless resin; LC-MS: tR=1.05 min, [M+1]+=453.25; 1H NMR (CDCl3): δ 7.56 (s, 1H), 7.30-7.21 (m, 4H), 6.88 (s, 2H), 4.11-4.05 (m, 1H), 3.87-3.80 (m, 4H), 3.18-3.11 (m, 2H), 2.98-2.85 (m, 4H), 2.39 (s, 3H), 2.25 (s, 6H), 1.29 (t, J=7.6 Hz, 3H).

reactant | 1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-propan-1-one | 0.125 mmol, 47 mg | C(C)C1=C(C=C(S1)C(CCC1=CC(=C(C(=C1)C)O)C)=O)C1=CC=C(C=C1)C | C24H26O2S
reactant | (S)-3-chloro-propane-1,2-diol | 90 μL | ClC[C@H](CO)O | C3H7ClO2
reactant | (S)-3-chloro-propane-1,2-diol | 60 μL | ClC[C@H](CO)O | C3H7ClO2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | NaOH | 3 N, 0.5 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 3-[4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(5-ethyl-4-p-tolyl-thiophen-2-yl)-propan-1-one | 6 mg | O[C@H](COC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=C(C=C1)C)CC)C)CO | C27H32O4S
